Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fevers and chills
 
Major Surgical or Invasive Procedure:
ERCP ___

 
History of Present Illness:
Mr. ___ is a ___ male with a history of
end-stage ___ and dysphagia with PEG placement, chronic
anticoagulation, who was transferred to ___ from an outside
hospital with a presumed diagnosis of cholangitis. Mr. ___
was in his normal state of health until yesterday, when he felt
that he had a fever. Otherwise, he endorsed no other symptoms --
denied abdominal pain, diarrhea, though he did endorse an
unspecified amount of weight loss. Per chart review, his main
symptom was decreased consciousness.  He was brought to ___. There his temp was 102.1 and he required 3 L
O2. A bedside ultrasound showed a dilated CBD. A CXR was read as
concerning for PNA, and he was started on levofloxacin and
vancomycin, as well as clindamycin. He received a CT which 
showed
mildly dilated intrahepatic, CBD, and pancreatic ducts. GI at 
___ was consulted, who recommended transfer to ___ for ERCP.
Otherwise, he had a run of NSVT. Labs at OS___ showed BUN/Cr
___, Na 133, Cl 91, WBC 10.3, Hgb 11.6, Plt 156. INR 7.8.
Trop negative. Lactic acid 1.3. In our ED, AVSS.  UA negative,
BMP notable for K of 3.1, ALP 720, T Bili 4.6, D Bili 3.8,
ALT/AST 91/149, WBC 10.2 with a Hgb of 11.5. INR 8.1. Due to 
this
elevated INR, he was given FFP and IV vitamin K. He had an ERCP,
with a plastic stent placed through a stricture. Brushings were
taken. No sphincterotomy was performed d/t anticoagulation. He
was then admitted to medicine.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative.
 
Past Medical History:
End stage Parkinsons
Dysphagia requiring PEG tube placement with tube feedings
Atrial fibrillation on chronic anticoagulation
History of PE
CHF, presumed preserved ejection fraction
DJD
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
ADMISSION EXAM:
VITALS: 98.1 PO 147 / 71  L Lying 60 20 92 RA 
GENERAL: Alert and in no apparent distress with bilateral
tremors. He is A+O x 3
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: irreg irreg, no mrg
RESP: Coarse BS in BLE bilaterally.  Breathing is non-labored
GI: S/NT/ND, +BS, PEG tube in place
GU: No suprapubic fullness or tenderness to palpation
MSK: Moving extremities independently
SKIN: No rashes or ulcerations noted
NEURO: Bilateral pill rolling tremor and masked facies
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
VITALS: reviewed 
GENERAL: Alert and in no apparent distress with bilateral
tremors. He is A+O x 3
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: irreg irreg, no mrg
RESP: Coarse BS in BLE bilaterally.  Breathing is non-labored
GI: S/NT/ND, +BS, PEG tube in place
GU: No suprapubic fullness or tenderness to palpation
MSK: Moving extremities independently
SKIN: No rashes or ulcerations noted
NEURO: Bilateral pill rolling tremor and masked facies
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS
--------------
___ 06:30AM BLOOD WBC-10.2* RBC-3.41* Hgb-11.5* Hct-34.3* 
MCV-101* MCH-33.7* MCHC-33.5 RDW-14.4 RDWSD-52.5* Plt ___
___ 06:30AM BLOOD Neuts-82.6* Lymphs-9.7* Monos-6.4 
Eos-0.7* Baso-0.2 Im ___ AbsNeut-8.40* AbsLymp-0.99* 
AbsMono-0.65 AbsEos-0.07 AbsBaso-0.02
___ 06:30AM BLOOD ___ PTT-64.3* ___
___ 06:30AM BLOOD Glucose-79 UreaN-21* Creat-0.6 Na-137 
K-3.1* Cl-98 HCO3-28 AnGap-11
___ 06:30AM BLOOD ALT-91* AST-149* AlkPhos-720* 
TotBili-4.6* DirBili-3.8* IndBili-0.8
___ 06:30AM BLOOD Albumin-3.0* Calcium-8.5 Phos-3.0 Mg-1.7
___ 06:35AM BLOOD Lactate-1.0

IMAGING
-------
ERCP ___:
The scout film was normal. 
•Dark bile was draining from the major papilla. 
•The CBD was successfully cannulated using a Rx sphincterotome 
preloaded with 0.035in guidewire. 
•Contrast injection revealed a 1cm mid-upper CBD stricture with 
dilation of the upper CBD at approximately 15mm in diameter. 
•Given the anticoagulation status of the patient the decision 
was made not to perform biliary sphincterotomy. 
•Multiple brushings were obtained from the stricture and sent 
for cytology. 
•A ___ x 7cm straight plastic CBD stent was successfully placed 
in the CBD across the stricture. 
•There was excellent bile and contrast drianage at the end of 
the procedure. 

CTA pancreas ___:
1. Suspected 1.5 x 1.3 cm hypoenhancing pancreatic head mass 
abutting the CBD stent and portal vein.  There is mild 
dilatation of the main pancreatic duct, measuring up to 0.5 cm 
with relative atrophy of the more distal pancreas.  Correlation 
with cytology from the CBD brushings is recommended. 
2. There is moderate intrahepatic biliary dilatation and a new 
CBD stent.  The gallbladder is diffusely dilated, measuring up 
to 11.7 x 8.5 cm, previously 11.6 x 7.3 cm. 
3. Unchanged left lower lobe ground-glass opacity and 
consolidation, 
concerning for aspiration or pneumonia in the correct clinical 
setting. 
4. The rectum and sigmoid colon are diffusely distended with 
stool.

MICROBIOLOGY
------------
Blood culture ___: pending, NGTD
Urine culture ___: negative

DISCHARGE EXAM
--------------
___ 06:05AM BLOOD WBC-4.0 RBC-3.08* Hgb-10.3* Hct-31.1* 
MCV-101* MCH-33.4* MCHC-33.1 RDW-14.9 RDWSD-55.8* Plt ___
___ 06:05AM BLOOD ___ PTT-33.3 ___
___ 06:05AM BLOOD Glucose-119* UreaN-22* Creat-0.6 Na-142 
K-3.2* Cl-102 HCO3-29 AnGap-11
___ 06:05AM BLOOD ALT-53* AST-151* LD(LDH)-162 AlkPhos-816* 
TotBili-3.1*
 
Brief Hospital Course:
___ male with end-stage ___ disease requiring 
tube feeding, atrial fibrillation and pulmonary embolism on 
chronic anticoagulation, who presented with cholangitis and 
found to have a stricture and pancreatic head mass, concerning 
for pancreatic cancer.

ACUTE/ACTIVE PROBLEMS:
# Cholangitis
# Bile duct obstruction
# Pancreatic duct stricture, concerning for cancer: presented 
with fevers and chills, evidence of cholangitis, and underwent 
ERCP which revealed stricture with plastic stent placed.  
Discussed with oncology who recommended CTA pancreas to further 
evaluate.  LFTs downtrended after ERCP, and patient was placed 
on five days of ciprofloxaxcin.  CTA pancreas revealed a 
pancreatic head mass.  Brushings taken during ERCP are pending 
pathological analysis.  Pancreas Care was e-mailed and will 
contact the patient's health care proxy to schedule a 
multidisciplinary meeting.  He will require repeat ERCP in four 
weeks and will need to be off anticoagulation for this, to be 
scheduled by ERCP team.

# Atrial fibrillation on chronic anticoagulation
# History of pulmonary embolism: s/p FFP and Vit K for INR 8.1 
on admission. Repeat INR 1.5.  Warfarin 5 mg daily was started 
following ERCP.  INR was 1.6 on the day of discharge.  Warfarin 
should be continued and INR rechecked on ___ to assure INR 
goal of ___.

# End stage ___. Home Sinemet, gabapentin, and trazodone 
were continued.

# Depression. Home paroxetine was continued.

# Gout. Home colchicine was continued.

# GERD. Home famotidine was continued.

# Nutrition/Hydration: Tube feeds, 1.5 Jevity  240 mL QID, soft
foods for palliation

TRANSITIONS OF CARE
-------------------
# Follow-up: Brushings were taken during ERCP are pending 
pathological analysis, which will need to be followed up.  
Pancreas Care was e-mailed and will contact the patient's health 
care proxy to schedule a multidisciplinary meeting after 
discharge.  He will require repeat ERCP in four weeks and will 
need to be off anticoagulation for this, to be scheduled by ERCP 
team.  INR should be rechecked on ___.

# Contacts/HCP/Surrogate and Communication: ___
___, discussed on ___
# Code Status/Advance Care Planning: FULL confirmed with patient
and on MOLST from ___ (please also see current POE order)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Colchicine 0.6 mg PO DAILY 
2. Famotidine 20 mg PO/NG DAILY 
3. Furosemide 20 mg PO/NG EVERY OTHER DAY 
4. Ocuvite (vit C-vit E-lutein-min-om-3) 150-30-5-150 
mg-unit-mg-mg oral DAILY 
5. PARoxetine 20 mg PO/NG DAILY 
6. Acetaminophen 1000 mg PO/NG Q6H:PRN Pain - Mild 
7. Gabapentin 300 mg PO/NG TID 
8. Carbidopa-Levodopa (___) 3 TAB PO/NG QID 
9. TraZODone 12.5 mg PO/NG QHS:PRN insomnia, restlessness 
10. Warfarin Dose is Unknown  PO DAILY16 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 3 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*6 Tablet Refills:*0 
2.  Warfarin 5 mg PO DAILY16  
3.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
4.  Carbidopa-Levodopa (___) 3 TAB PO QID  
5.  Colchicine 0.6 mg PO DAILY  
6.  Famotidine 20 mg PO DAILY  
7.  Furosemide 20 mg PO EVERY OTHER DAY  
8.  Gabapentin 300 mg PO TID  
9.  Ocuvite (vit C-vit E-lutein-min-om-3) 150-30-5-150 
mg-unit-mg-mg oral DAILY  
10.  PARoxetine 20 mg PO DAILY  
11.  TraZODone 12.5 mg PO QHS:PRN insomnia, restlessness  

 
Discharge Disposition:
Extended Care
 
Facility:
___. 
 
Discharge Diagnosis:
Cholangitis
Bile duct obstruction and stricture
Pancreas head mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your recent stay at 
___.  You came for further evaluation of fevers and chills, 
and were found to have blockage of your common bile duct and 
subsequent infection.  An ERCP was performed and noted a mass on 
the head of your pancreas, and this was confirmed with a CT 
scan.  A stent was placed during your ERCP to relieve the 
obstruction.  Your infection improved with this intervention and 
with antibiotics.

It will be very important for you to follow up with our Pancreas 
Care center after your discharge, to follow up the biopsy that 
was taken of your pancreas, and for further planning for your 
care.

It is also important for you to take all medications as 
prescribed.

Good luck!
 
Followup Instructions:
___